US05059614
a) Preparation of 2,6-dimethyl benzyl alcohol
17 g of 2,6-dimethyl benzoic acid ethyl ester (0.095 mole) dissolved in 50 ml of ethyl ether are added dropwise as a function of the vigor of reflux to a suspension of 3.72 g (0.095 mole) of LiAlH4 in 100 ml of ether. When the addition is complete, the mixture is heated at reflux for 2h and left to stand overnight. Excess hydride is decomposed by the gradual addition of water (while cooling the flask in an ice-water bath), then 10% HCl. After the usual work-up, the product is crystallized from petroleum ether. 10 g of product are obtained. M.p.=84°. Yield 77.5%.

reactant | 2,6-dimethyl benzoic acid ethyl ester | 0.095 mole, 17 g | C(C)OC(C1=C(C=CC=C1C)C)=O | C11H14O2
reactant | LiAlH4 | 0.095 mole, 3.72 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | hydride | [H-]
reactant | HCl | Cl | ClH
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2,6-dimethyl benzyl alcohol | 10 g, Yield 77.5% | CC1=C(CO)C(=CC=C1)C | C9H12O
